US06429315B1
Four grams of 2-(R)-aminobutanol and 7.2 grams of NaOH are suspended in toluene in a round bottom flask at ambient temperature. Benzenesulfonyl chloride (16.7 g) is added with agitation in one portion. The resulting white suspension is heated at 62° C. for 6 hours. Water (90 mL) is added and the layers are separated. The organic layer is washed with 70 ml of water, dried over magnesium sulfate and concentrated to provide 1-benzenesulfonyl-2(R)-ethylaziridine (6.7 g) as a colorless oil which is purified by flash chromatography over silica gel. MS: m/z (E1, 70EV) 212 (20%)

reactant | 2-(R)-aminobutanol | Four grams | N[C@@H](CO)CC | C4H11NO
reactant | NaOH | 7.2 grams | [OH-].[Na+]
reactant | Benzenesulfonyl chloride | 16.7 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | Water | 90 mL | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-benzenesulfonyl-2(R)-ethylaziridine | 6.7 g | C1(=CC=CC=C1)S(=O)(=O)N1[C@@H](C1)CC | C10H13NO2S
